US07442696B2
This compound was prepared using General Method 1 (EXAMPLE 1) from 2-amino-6-chlorobenzaldehyde (0.30 g, 1.9 mmol) and 3,4-difluorobenzylmagnesium bromide (generated from 3,4-difluorobenzyl bromide and magnesium in ether, 3.9 mmol, 2 equiv) to afford 0.28 g (57%) of (±)-1-(2-amino-6-chlorophenyl)-2-(3,4-difluorophenyl)ethanol after flash chromatography (4:1 hexanes:ethyl acetate).

reactant | 2-amino-6-chlorobenzaldehyde | 1.9 mmol, 0.30 g | NC1=C(C=O)C(=CC=C1)Cl | C7H6ClNO
reactant | 3,4-difluorobenzylmagnesium bromide | 3.9 mmol, 2 equiv | FC=1C=C(C[Mg]Br)C=CC1F
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-1-(2-amino-6-chlorophenyl)-2-(3,4-difluorophenyl)ethanol | 0.28 g, 57% | NC1=C(C(=CC=C1)Cl)C(CC1=CC(=C(C=C1)F)F)O | C14H12ClF2NO
